US05703110
Ethyl 2-propylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate
Propyl iodide (0.37 g) was added to a solution of ethyl 2-mercapto-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]-benzimidazole-7-carboxylate (0.91 g) in ethanol (13 ml) containing 1N NaOH (4.0 ml) and the mixture was stirred at room temperature for 5 hours. The reaction mixture was adjusted to about pH 4 with dilute hydrochloric acid to give crystals. The crystals were collected by filtration and purified by column chromatography on silica gel. Recrystallization from ethyl acetate-hexane gave colorless prisms (0.4 g, 40%), m.p. 177°-178° C. (decomp.).

reactant | Propyl iodide | 0.37 g | C(CC)I | C3H7I
reactant | ethyl 2-mercapto-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]-benzimidazole-7-carboxylate | 0.91 g | SC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCC | C24H20N6O2S
reactant | NaOH | 1N, 4.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 13 ml | C(C)O | C2H6O
product | Ethyl 2-propylthio-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | 0.4 g, 40% | C(CC)SC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OCC | C27H26N6O2S
